US08053441B2
6-Chloro-2-isopropenyl-3H-quinazolin-4-one
5-Chloro-2-(2-methyl-acryloylamino)-benzamide (1.5 mmoL) in EtOH (10 mL) was treated with ammonia hydroxide (˜3.0 mmoL) at 80° C. for 4 h. The reaction was then cooled down and the solvent was removed. The reaction mixture was then partitioned between DCM and water. The organic layer was washed with sat. NH4Cl, brine, dried over anhydrous Na2SO4, filtered, concentrated and purified by silica gel column chromatography to afford the title compound as a white solid.

reactant | 5-Chloro-2-(2-methyl-acryloylamino)-benzamide | ClC=1C=CC(=C(C(=O)N)C1)NC(C(=C)C)=O | C11H11ClN2O2
reactant | ammonia hydroxide | [OH-].N
solvent | EtOH | 10 mL | CCO | C2H6O
product | 6-Chloro-2-isopropenyl-3H-quinazolin-4-one | ClC=1C=C2C(NC(=NC2=CC1)C(=C)C)=O | C11H9ClN2O
